US06632909B2
0.49 ml (6.60 mmol) of ethyl bromide and 1.37 g (9.9 mmol) of potassium carbonate are added to a mixture of 780 mg (3.30 mmol) of methyl (E)-4-hydroxy-3-propoxycinnamate and 10 ml of 2-butanone and then refluxed for 2 hours. Thereafter, the reaction mixture is cooled to room temperature and is partitioned between ethyl acetate and water, and the organic phase is washed several times with water, dried over magnesium sulfate, filtered and evaporated down. Chromatography of the residue over silica gel using 9:1 cyclohexane/ethyl acetate gives methyl 3(E)-[4-ethoxy-3-propoxyphenyl]acrylate.

reactant | ethyl bromide | 6.60 mmol, 0.49 ml | C(C)Br | C2H5Br
reactant | potassium carbonate | 9.9 mmol, 1.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (E)-4-hydroxy-3-propoxycinnamate | 3.30 mmol, 780 mg | OC1=C(C=C(/C=C/C(=O)OC)C=C1)OCCC | C13H16O4
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | methyl 3(E)-[4-ethoxy-3-propoxyphenyl]acrylate | C(C)OC1=C(C=C(C=C1)/C=C/C(=O)OC)OCCC | C15H20O4
